2190-05-10 06:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2190-5-10**] 12:00 AM
   - Admitted overnight
   - Seen by CT surgery
   - Completed 2 pRBC transfusion
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2190-5-10**] 12:30 AM
   Vancomycin - [**2190-5-10**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-5-10**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.6
C (96
   HR: 92 (88 - 115) bpm
   BP: 106/40(55) {103/40(55) - 128/85(88)} mmHg
   RR: 15 (14 - 29) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
             363 mL
   PO:
             TF:
   IVF:
   363 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    865 mL
   Urine:
   865 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -502 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   GEN: pleasant, HOH, elderly frail-appearing male
   HEENT: EOMI, anicteric, MMM, OP - no exudate, no erythema, no cervical
   LAD
   CHEST: difficult to exam due to pt's cooperation, but decreased BS in
   RUL
   CV: irreg irreg, no m/r/g
   ABD: NDNT, soft, NABS
   EXT: no c/c/e, 2+ DP bilaterally
   NEURO: A&O x 2 (name, [**Location (un) **], [**2189-4-2**] but knows [**Last Name (un) 2761**] is the Pres)
   DERM: Large 7 x 10 ecchymose over R flank. Thoracentesis site without
   drainage but 5 x 6 palpable swollen area.
   Labs / Radiology
   301 K/uL
   10.5 g/dL
   101 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.9 mEq/L
   18 mg/dL
   97 mEq/L
   132 mEq/L
   31.0 %
   17.4 K/uL
        [image002.jpg]
                             [**2190-5-10**]  12:10 AM
   WBC
   17.4
   Hct
   31.0
   Plt
   301
   Cr
   0.7
   Glucose
   101
   Other labs: PT / PTT / INR:17.6/29.5/1.6, Differential-Neuts:79.0 %,
   Band:0.0 %, Lymph:11.0 %, Mono:6.0 %, Eos:4.0 %, Ca++:8.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan  88 y.o. M with HTN, hypercholesterolemia, who
   presented to [**Hospital1 5**]-[**Location (un) 3**] ER on [**2190-4-28**] with pneumonia, now s/p R
   thoracentesis c/b subcutaneous hematoma in setting of hematocrit drop.
   .
   # Anemia due to acute blood loss: Likely secondary to thoracentesis in
   setting of coumadin.  Hemodynamically stable per OSH.  Less likely GI
   bleed as no symptoms.
   - active T&S and crossmatch 2 units
   - transfuse for Hct<21
   - 2 large bore IVs
   - trend q6 hour hematocrit
   - appreciate thoracic surgery recs - hold on CT as pt stable
   - IR aware for possible angio for embolization of intrathoracic vessel
   if HD unstable
   - guiaic all stools
   - hold coumadin
   .
   # Hematoma: Pt with elevated INR in setting of coumadin and expansive
   hematoma per OSH hospitalist.
   - appreciate thoracic surgery recs
   - IR aware
   - hold coumadin
   - no need for pressure dressing as [**Female First Name (un) **] site not oozing
   .
   # Pneumonia: Febrile with leukocytosis and infiltrate at OSH
   - continue vancomycin and zosyn for healthcare associated pneumonia
   given ALF
   - f/u OSH culture data
   .
   # Atrial fibrillation: New onset per OSH
   - EKG on admission
   - monitor on telemetry
   - hold anticoagulation given anemia
   - as HD stable, will continue BB
   .
   # Hypertension:
   - continue BB
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   PICC Line - [**2190-5-10**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNI (do not intubate)
   Disposition:Transfer to floor

2190-05-11 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -CT [**Doctor First Name 91**] no new recs
   -CXR repeated w/ slightly larger R pleural effusion
   -hct trended, relatively stable
   -TSH added on, 5.7- free T4 ordered for a.m.
   -sputum cx ordered, none produced
   -PO lopressor uptitrated
   -vanc / zosyn approved by ID
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2190-5-10**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2190-5-11**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-5-11**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 84 (84 - 121) bpm
   BP: 119/60(75) {107/54(68) - 151/97(102)} mmHg
   RR: 16 (16 - 34) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,240 mL
                                                                    291 mL
   PO:
                                                                    300 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    940 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  1,735 mL
                                                                  1,175 mL
   Urine:
                                                                  1,735 mL
                                                                  1,175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -495 mL
                                                                   -884 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   Gen: well appearing
   Car:
   Resp:
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  stable ecchymosis
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   286 K/uL
   9.8 g/dL
   82 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.0 mEq/L
   14 mg/dL
   97 mEq/L
   132 mEq/L
   28.1 %
   13.0 K/uL
        [image002.jpg]
                             [**2190-5-10**]  12:10 AM
                             [**2190-5-10**]  06:16 AM
                             [**2190-5-10**]  12:03 PM
                             [**2190-5-10**]  06:30 PM
                             [**2190-5-11**]  03:38 AM
   WBC
   17.4
   15.7
   13.0
   Hct
   31.0
   29.8
   30.1
   28.3
   28.1
   Plt
   [**Telephone/Fax (3) 6958**]
   Cr
   0.7
   0.6
   0.7
   Glucose
   101
   89
   82
   Other labs: PT / PTT / INR:13.7/27.6/1.2, Differential-Neuts:79.5 %,
   Band:0.0 %, Lymph:11.9 %, Mono:5.5 %, Eos:2.9 %, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   88 y.o. M with HTN, hypercholesterolemia, who presented to
   [**Hospital1 5**]-[**Location (un) 3**] ER on [**2190-4-28**] with pneumonia, now s/p R thoracentesis c/b
   subcutaneous hematoma in setting of hematocrit drop.
   # Anemia due to acute blood loss:
   -likely secondary to chest wall hematoma [**1-4**] thoracentesis also with
   possible blood in pleural space, hematocrit remains stable.
   -active type and screen
   -[**Hospital1 **] hct for now
   -IR aware, at this point clinically stable and not necessary for
   embolization
   -hold coumadin (indication was new afib), INR 1.4, had rec
d vit K
   -Worsening CXR today, discuss with CT surgery best plan for management
   of effusion. Oxygenation and resp rate remain stable.
   # Pneumonia: h/o pseudomonas PNA
   -cont vanc ([**5-8**]) / zosyn ([**4-28**] GN coverage) x 14 days
   -DNI, okay resuscitate
   -continue to f/u OSH culture data
   -send Blood cx and sputum cx
   -speech and swallow consult
   # Atrial fibrillation: New onset per OSH
   -ECHO w/ mod AS and mod MR, normal EF
   -tele
   -continuing to uptitrate lopressor as tolerated.
   -hold anticoagulation given bleed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2190-5-10**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition:  ICU for now

2190-05-11 07:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   >Hematocrit stable
   > increased metop for Afib
   > increasing size of right hematoma
   Chest discomfort stable
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2190-5-10**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2190-5-11**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-5-11**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 84 (84 - 121) bpm
   BP: 119/60(75) {107/54(68) - 151/97(102)} mmHg
   RR: 16 (16 - 34) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,240 mL
                                                                    293 mL
   PO:
                                                                    300 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    940 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  1,735 mL
                                                                  1,175 mL
   Urine:
                                                                  1,735 mL
                                                                  1,175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -495 mL
                                                                   -882 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: right), hematoma on
   the right
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, increasing ecchmyosis over the
   right back and flank, warm and painful to palpation.
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   286 K/uL
   82 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.0 mEq/L
   14 mg/dL
   97 mEq/L
   132 mEq/L
   28.1 %
   13.0 K/uL
        [image002.jpg]
                             [**2190-5-10**]  12:10 AM
                             [**2190-5-10**]  06:16 AM
                             [**2190-5-10**]  12:03 PM
                             [**2190-5-10**]  06:30 PM
                             [**2190-5-11**]  03:38 AM
   WBC
   17.4
   15.7
   13.0
   Hct
   31.0
   29.8
   30.1
   28.3
   28.1
   Plt
   [**Telephone/Fax (3) 6958**]
   Cr
   0.7
   0.6
   0.7
   Glucose
   101
   89
   82
   Other labs: PT / PTT / INR:13.7/27.6/1.2, Differential-Neuts:79.5 %,
   Band:0.0 %, Lymph:11.9 %, Mono:5.5 %, Eos:2.9 %, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   CXR [**5-11**]: significant increase in left sided pleural effusion now
   filling the hemothorax
   Assessment and Plan
   88 y.o. M with HTN, hypercholesterolemia, who presented to
   [**Hospital1 5**]-[**Location (un) 3**] ER on [**2190-4-28**] with pneumonia, now s/p R thoracentesis c/b
   subcutaneous hematoma in setting of hematocrit drop, now
   hemodynamically stable but possible increase in effusion size on the
   right over the past 24 hr
   > Anemia due to acute blood loss: Likely secondary to thoracentesis in
   setting of coumadin.  Hemodynamically stable at present.
   - active T&S and crossmatch 2 units
   - 2 large bore IVs
   - trend q12 hour hematocrit
   - appreciate thoracic surgery recs
   - hold coumadin
   > Hematoma/hemothorax: Pt with elevated INR in setting of coumadin and
   expansive hematoma now increased in size.
   - appreciate thoracic surgery recs, will d/w thoracic surgery  re:
   chest tube
   - hold coumadin
   - no need for pressure dressing as [**Female First Name (un) **] site not oozing, supportive
   care.
   > Pneumonia: Febrile with leukocytosis and infiltrate at OSH. No clx
   data.
   - Would cont Vanco (D1=[**5-7**])  and Pip-Tazo (D1= [**4-28**]) for 14 day course.
   - continue vancomycin and zosyn for healthcare associated pneumonia
   given ALF
   - f/u OSH culture data
   > Atrial fibrillation: New onset per OSH
   - defer anticoagulation
   - as HD stable, uptitrating Metop with good effect.
   Additional issues per ICU resident note.
   ICU Care
   Nutrition:
   Comments: reg diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2190-5-10**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition :  ICU
   Addendum:
   Chest CT with stable effusion and hematoma

2190-05-12 06:13:00 Physician Resident Progress Note
24 Hour Events:
 ULTRASOUND - At [**2190-5-11**] 04:00 PM
   IP fellow in - US of r side of chest
   -AM CXR concerning for worsening fluid accumulation. CT chest done
   without change from [**5-9**] [**Location (un) 3**] study. CT [**Doctor First Name 91**] contact[**Name (NI) **] [**Name2 (NI) **] for
   consideration of Pigtail catheter. After discussion with pt and
   daughter plan for conservative approach and diuresis to try to treat
   effusion for now.  1 L neg at midnight
   -pm HCT stable
   -AF/RVR this afternoon to 140s. Received 2 doses IV Metoprolol and
   increased metoprolol to 100 mg tid. Gave 250 cc bolus.  Persisted, gave
   additional 25 mg po metoprolol and increased to 125 mg tid with
   improved HR after midnight dose.
   History obtained from Patient
   Allergies:
   History obtained from PatientSulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2190-5-11**] 08:43 PM
   Piperacillin/Tazobactam (Zosyn) - [**2190-5-12**] 04:49 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2190-5-11**] 02:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-5-12**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.2
C (97.2
   HR: 95 (84 - 120) bpm
   BP: 126/68(83) {111/63(78) - 155/105(118)} mmHg
   RR: 19 (14 - 34) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,600 mL
                                                                    162 mL
   PO:
                                                                    410 mL
             TF:
   IVF:
                                                                  1,190 mL
                                                                    162 mL
   Blood products:
   Total out:
                                                                  3,150 mL
                                                                  1,650 mL
   Urine:
                                                                  3,150 mL
                                                                  1,650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,550 mL
                                                                 -1,488 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   GEN: NAD, pleasant elderly male HOH
   HEENT: anicteric, EOMI
   CHEST:  decreased BS on R but poor cooperation by patient
   CV: irreg, irreg, no m/r/g
   ABD:  NDNT, soft, NABs
   EXT: no c/c/e
   DERM: hematoma/ecchymoses unchanged
   Labs / Radiology
   286 K/uL
   9.7 g/dL
   88 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.2 mEq/L
   11 mg/dL
   99 mEq/L
   133 mEq/L
   28.8 %
   11.6 K/uL
        [image002.jpg]
                             [**2190-5-10**]  12:10 AM
                             [**2190-5-10**]  06:16 AM
                             [**2190-5-10**]  12:03 PM
                             [**2190-5-10**]  06:30 PM
                             [**2190-5-11**]  03:38 AM
                             [**2190-5-11**]  03:44 PM
                             [**2190-5-12**]  03:49 AM
   WBC
   17.4
   15.7
   13.0
   11.6
   Hct
   31.0
   29.8
   30.1
   28.3
   28.1
   28.9
   28.8
   Plt
   [**Telephone/Fax (3) 6982**]86
   Cr
   0.7
   0.6
   0.7
   0.7
   Glucose
   101
   89
   82
   88
   Other labs: PT / PTT / INR:13.5/29.4/1.2, Differential-Neuts:79.5 %,
   Band:0.0 %, Lymph:11.9 %, Mono:5.5 %, Eos:2.9 %, Ca++:8.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   CHEST CT [**5-11**]
   IMPRESSION:
   1. Compared to [**2190-5-9**], no appreciable change in appearance of the
   chest.
   2. Bilateral pleural effusions, large on the right and small on the
   left,
   measure simple fluid density with the exception of a focal blood clot
   within
   the right pleural space.
   3. Stable hematoma involving the subcutaneous soft tissues of the
   posterolateral right chest wall.
   4. Patchy airspace opacity predominating in the upper lobes has not
   significantly progressed, possibly related to aspiration or pneumonia.
   5. Moderate dilatation of the left renal collecting system is
   incompletely
   imaged but appears similar to [**2190-5-9**].
   Assessment and Plan
   88 y.o. M with HTN, hypercholesterolemia, who presented to
   [**Hospital1 5**]-[**Location (un) 3**] ER on [**2190-4-28**] with pneumonia, now s/p R thoracentesis c/b
   subcutaneous hematoma in setting of hematocrit drop.
   # Anemia due to acute blood loss: likely secondary to chest wall
   hematoma [**1-4**] thoracentesis also with possible blood in pleural space,
   hematocrit remains stable. Per family, would like to do conservative
   management
   -active type and screen
   -daily Hcts
   -hold coumadin (indication was new afib), INR 1.4, had rec
d vit K
   -portable CXR tomorrow in AM
   # Pneumonia: h/o pseudomonas PNA
   -cont vanc ([**5-8**]) x 14 days
   - d/c zosyn, completed 14 day course
   -continue to f/u OSH culture data
   # Atrial fibrillation: New onset per OSH.  ECHO w/ mod AS and mod MR,
   normal EF
   -tele
   -continue metoprolol 125 mg po TID; if not rate controlled
 could add
   dig or dilt
   -hold anticoagulation given bleed
   ICU Care
   Nutrition: Diet with Ensure
   Glycemic Control:
   Lines:
   PICC Line - [**2190-5-10**] 12:00 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments: nutrition c/s, PT c/s
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition: callout to floor

2190-05-12 07:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 ULTRASOUND - At [**2190-5-11**] 04:00 PM
   IP fellow in - US of r side of chest
 effusion and clot floating
   within effusion visible
   [**Female First Name (un) **]/catheter deferred after discussion with daughter
 conservative
   approach opted for
   > increase Metop for rate control with good effect
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2190-5-11**] 08:43 PM
   Piperacillin/Tazobactam (Zosyn) - [**2190-5-12**] 04:49 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2190-5-11**] 02:15 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-5-12**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.2
C (97.2
   HR: 98 (84 - 120) bpm
   BP: 142/91(103) {111/63(78) - 155/105(118)} mmHg
   RR: 28 (14 - 34) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,600 mL
                                                                    177 mL
   PO:
                                                                    410 mL
             TF:
   IVF:
                                                                  1,190 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  3,150 mL
                                                                  1,650 mL
   Urine:
                                                                  3,150 mL
                                                                  1,650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,550 mL
                                                                 -1,473 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : ), right chest hematoma
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   286 K/uL
   88 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.2 mEq/L
   11 mg/dL
   99 mEq/L
   133 mEq/L
   28.8 %
   11.6 K/uL
        [image002.jpg]
                             [**2190-5-10**]  12:10 AM
                             [**2190-5-10**]  06:16 AM
                             [**2190-5-10**]  12:03 PM
                             [**2190-5-10**]  06:30 PM
                             [**2190-5-11**]  03:38 AM
                             [**2190-5-11**]  03:44 PM
                             [**2190-5-12**]  03:49 AM
   WBC
   17.4
   15.7
   13.0
   11.6
   Hct
   31.0
   29.8
   30.1
   28.3
   28.1
   28.9
   28.8
   Plt
   [**Telephone/Fax (3) 6982**]86
   Cr
   0.7
   0.6
   0.7
   0.7
   Glucose
   101
   89
   82
   88
   Other labs: PT / PTT / INR:13.5/29.4/1.2, Differential-Neuts:79.5 %,
   Band:0.0 %, Lymph:11.9 %, Mono:5.5 %, Eos:2.9 %, Ca++:8.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   88 y.o. M with HTN, hypercholesterolemia, who presented to
   [**Hospital1 5**]-[**Location (un) 3**] ER on [**2190-4-28**] with pneumonia, now s/p R thoracentesis c/b
   subcutaneous hematoma in setting of hematocrit drop, now
   hemodynamically stable in size on the right and hemodynamically stable.
   > Anemia due to acute lood loss: Likely secondary to thoracentesis in
   setting of coumadin.  Hemodynamically stable at present.
   - follow Hct
   - appreciate thoracic surgery recs
   - hold coumadin
   > Hematoma/hemothorax: Pt with elevated INR in setting of coumadin and
   expansive hematoma now increased in size although the effusion size is
   stable (with clot visible on the . will try to optimize conservative
   management (in the absence of another attempt at thoracentesis / chest
   tube)
   - appreciate thoracic surgery recs, will d/w thoracic surgery  re:
   chest tube
   - hold coumadin
    > Pneumonia: Febrile with leukocytosis and infiltrate at OSH. No clx
   data.
   - Would cont Vanco (D1=[**5-7**])  and Pip-Tazo (D1= [**4-28**]) for 14 day course.
   - continue vancomycin and zosyn for healthcare associated pneumonia
   given living in nursing home.
   > Atrial fibrillation: New onset per OSH
   - defer anticoagulation
   - as HD stable, uptitrating Metop with good effect.
   Additional issues per ICU resident note.
   ICU Care
   Nutrition:
   Comments: reg diet (nutrition consult), PT consult
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2190-5-10**] 12:00 AM
   Prophylaxis:
   DVT: Boots, holding SQ hep
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:  Family updated (re: conservative management)
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition :Transfer to floor